US07679082B2
To a solution of 3,6-dibromocarbazole (3.0 g, 8.95 mmol) in 25 mL of dried DMF was added potassium carbonate (2.47 g, 17.9 mmol). The mixture was stirred and degassed for 1 h, after which 1-bromo-2-ethylhexane (2.70 g, 13.4 mmol) was added dropwise, followed by refluxing for 2 days. The reaction mixture was poured into 100 mL of distilled water and extracted with chloroform. The combined organic layer was dried with anhydrous magnesium sulfate. After removal of the solvent and unreacted 2-ethylhexyl bromide under reduced pressure, the residue was purified by column chromatography on silica gel using hexane and ethyl acetate as the eluent to afford 3,6-dibromo-9-(2-ethylhexyl)-carbazole as a waxy solid. Yield: 3.02 g (77.2%), M.P.: 62.4-63.6° C.

reactant | 3,6-dibromocarbazole | 8.95 mmol, 3.0 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | potassium carbonate | 17.9 mmol, 2.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-ethylhexane | 13.4 mmol, 2.70 g | BrCC(CCCC)CC | C8H17Br
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3,6-dibromo-9-(2-ethylhexyl)-carbazole | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CCCC)CC | C20H23Br2N
